US06130333
A solution of 4 g (11.4 mmol) of ethyl 2-(1,3-benzodioxol-5-yl)-1H-benzimidazole-1-butanoate in 40 mL of THF was treated with 40 mL (80 mmol) of lithium hydroxide (2M in water), and the reaction was stirred at rt overnight. The mixture was washed with ether to remove non-acidic impurity. The aqueous layer was acidified with 3 N hydrochloric acid (HCl), and the solid was collected by filtration and dried in vacuo to give 2.77 g (75%) of 2-(1,3-benzodioxol-5-yl)-1H-benzimidazole-1-butanoic acid as an off-white solid: mp 177.0-179.8° C.; 1H NMR (DMSO, d6) δ 1.90 (quintet, J=7.3 Hz, 2H), 2.19 (t, J=6.9 Hz, 2H), 4.30 (t, J=7.7 Hz, 2H), 6.14 (s, 2H), 7.10 (d, J=8.1 Hz, 1H), 7.20-7.34 (m, 4H), 7.65 (dd, J=7.9, 1.2 Hz, 2H), 12.15 (br s, 1H); HRMS (EI) Calc'd for M+ : 325.1188, found: 325.1188. Anal. Calc'd for [C18H16N2O4 +0.43 CH2Cl2 ]: C, 61.39; H, 4.71; N, 7.77. Found: C, 61.39; H, 4.55; N, 7.79.

reactant | ethyl 2-(1,3-benzodioxol-5-yl)-1H-benzimidazole-1-butanoate | 11.4 mmol, 4 g | O1COC2=C1C=CC(=C2)C2=NC1=C(N2CCCC(=O)OCC)C=CC=C1 | C20H20N2O4
reactant | lithium hydroxide | 80 mmol, 2M, 40 mL | [OH-].[Li+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 2-(1,3-benzodioxol-5-yl)-1H-benzimidazole-1-butanoic acid | 2.77 g, 75% | O1COC2=C1C=CC(=C2)C2=NC1=C(N2CCCC(=O)O)C=CC=C1 | C18H16N2O4
